US04260761
To a mixture of 10.27 g of 7-methoxy-3-benzofuranethylamine, 60 ml of methylene chloride, and 60 ml of 15% aqueous sodium hydroxide solution was added, with cooling, 8 ml of cyclopropanecarbonyl chloride. The mixture was stirred at room temperature overnight; an additional 2 ml of cyclopropanecarbonyl chloride added after two hours. The solvent was removed from the dried organic layer and the residue heated under reflux with 3.5 g of lithium aluminum hydride in tetrahydrofuran for 6 hours. Water (3.5 ml), 15% aqueous sodium hydroxide solution (3.5 ml) and finally water (10.5 ml) were added with cooling, and the mixture filtered. Removal of the solvent and short-path distillation of the residue (bath to 170°, 1 micron pressure) gave 11.74 g (90% yield) of N-cyclopropylmethyl-7-methoxy-3-benzofuranethylamine; nmr spectrum (in CDCl3): τ2.6 (s, 1); 2.8-3.4 (m, 3); 6.1 (s, 3); 7.1-7.4 (m, 4 ); 7.6 (d, J=6.5 Hz, 2) and 8.1-10.2 (m, 6).

reactant | 7-methoxy-3-benzofuranethylamine | 10.27 g | COC1=CC=CC2=C1OC(=C2)CCN | C11H13NO2
reactant | sodium hydroxide | 60 ml | [OH-].[Na+]
reactant | cyclopropanecarbonyl chloride | 8 ml | C1(CC1)C(=O)Cl | C4H5ClO
reactant | cyclopropanecarbonyl chloride | 2 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | N-cyclopropylmethyl-7-methoxy-3-benzofuranethylamine | 11.74 g, 90% yield | C1(CC1)CNCCC1=CC2=C(O1)C(=CC=C2)OC | C15H19NO2
